US04730053
S-(2-benzylcarbamoyl-phenylselenyl)-mercaptoacetic acid
Prepared similar to example 1 from 2,88 g (10,0 mmol) of 2-benzyl-1,2-benzisoselenazole-3(2H)-one and 0,95 g (10,3 mmol) mercaptoactic acid.

reactant | 2-benzyl-1,2-benzisoselenazole-3(2H)-one | 10,0 mmol, 2,88 g | C(C1=CC=CC=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C14H11NOSe
reactant | mercaptoactic acid | 10,3 mmol, 0,95 g | SCC(=O)O | C2H4O2S
product | S-(2-benzylcarbamoyl-phenylselenyl)-mercaptoacetic acid | C(C1=CC=CC=C1)NC(=O)C1=C(C=CC=C1)[Se]SCC(=O)O | C16H15NO3SSe
